US07250418B2
Preparation of N-[(3R,4S)-4-ethoxy-1-pyridin-2-yl pyrrolidin-3-yl]-3,6-diethyl-5-[6-methoxy-2-(trifluoromethyl)pyridin-3-yl]pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl}-3,6-diethylpyrazin-2-amine but substituting 2-bromopyridine and starting with N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-[6-methoxy-2-(trifluoromethyl)pyridin-3-yl]pyrazin-2-amine provided the title compound as an amorphous solid. 1H NMR (CDCl3) δ 1.15, 1.30, 2.44, 2.70, 3.43, 3.58, 3.75˜3.85, 4.05, 4.27, 4.90, 5.32, 6.46, 6.62, 6.97, 7.52, 7.56, 8.20; IR (diffuse reflectance) 2352 (w), 2338 (w), 2257 (w), 2175 (w), 2025 (w), 1600 (s), 1559, 1475 (s), 1443 (s), 1397, 1339, 1277, 1239, 1174, 1137 (s) cm−1 HRMS (ESI) calcd for C26H31N6O2F3+H1 517.2538. found 517.2533.

reactant | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl}-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C=1SC=CN1)CC | C23H27Cl2N5OS
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-[6-methoxy-2-(trifluoromethyl)pyridin-3-yl]pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CNC1)NC1=NC(=C(N=C1CC)C=1C(=NC(=CC1)OC)C(F)(F)F)CC | C21H28F3N5O2
product | N-[(3R,4S)-4-ethoxy-1-pyridin-2-yl pyrrolidin-3-yl]-3,6-diethyl-5-[6-methoxy-2-(trifluoromethyl)pyridin-3-yl]pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CN(C1)C1=NC=CC=C1)NC1=NC(=C(N=C1CC)C=1C(=NC(=CC1)OC)C(F)(F)F)CC | C26H31F3N6O2
